US04075286
4-t-Butylazo-4-methyl-3-thiapentyl chloroformate was prepared from 2-t-butylazo-2-(β-hydroxyethylthio)propane and phosgene using the procedure described for the synthesis of 4-t-butylazo-4,6-dimethyl-3-thiaheptyl chloroformate in Example VIb.

reactant | 2-t-butylazo-2-(β-hydroxyethylthio)propane | C(C)(C)(C)N=NC(C)(C)SCCO | C9H20N2OS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-t-butylazo-4,6-dimethyl-3-thiaheptyl chloroformate | ClC(=O)OCCSC(CC(C)C)(C)N=NC(C)(C)C | C13H25ClN2O2S
product | 4-t-Butylazo-4-methyl-3-thiapentyl chloroformate | ClC(=O)OCCSC(C)(C)N=NC(C)(C)C | C10H19ClN2O2S
